US05281726
Preparation of 4-Hydroxy-2'-nitrobutyrophenone
A mixture of ethyl 2-(o-nitrobenzoyl)acetate (11.9 g, 0.05 mol), 2-chloroethanol (8 g, 0.1 mol), 50% sodium hydroxide solution (8.8 g, 4.4 g real, 0.11 mol) and 40% benzyltrimethylammonium hydroxide solution (4.2 PG,12 g, 1.7 g, real, 0.01 mol) in water (50 mL) is heated at 50°-65° C. for 4-8 hours, cooled and extracted with methylene chloride. The combined organic extracts are concentrated in vacuo to give the title product, identified by 1HNMR and 13CNMR analyses.

reactant | ethyl 2-(o-nitrobenzoyl)acetate | 0.05 mol, 11.9 g | [N+](=O)([O-])C1=C(C(=O)CC(=O)OCC)C=CC=C1 | C11H11NO5
reactant | 2-chloroethanol | 0.1 mol, 8 g | ClCCO | C2H5ClO
reactant | sodium hydroxide | 0.11 mol, 8.8 g | [OH-].[Na+]
reactant | benzyltrimethylammonium hydroxide | 0.01 mol, 12 g | [OH-].C(C1=CC=CC=C1)[N+](C)(C)C
solvent | water | 50 mL | O | H2O
product | 4-Hydroxy-2'-nitrobutyrophenone | OCCCC(=O)C1=C(C=CC=C1)[N+](=O)[O-] | C10H11NO4
